US08895313B2
2-Methyl-6-(4-nitrophenyl)imidazo[2,1-b][1,3]thiazole
A mixture of 2-amino-5-methylthiazole (0.24 g, 2.11 mmol) and 2-bromo-4′-nitroacetophenone (0.5 g, 2.05 mmol) in EtOH (20 ml) was heated under reflux for 16 h. The reaction mixture was allowed to cool and sodium bicarbonate (200 mg, 2.38 mmol) was added and heating was continued for 1 h. On cooling to room temperature, the solvent was removed under reduced pressure and the residue dissolved in DCM (75 ml) and washed with water (30 ml), brine (30 ml) and dried (Na2SO4). The solvent was removed under reduced pressure and the residue was purified by flash chromatography (50:1 DCM/MeOH) to give the title compound (0.143 g, 26%) as a yellow solid.

reactant | 2-amino-5-methylthiazole | 2.11 mmol, 0.24 g | NC=1SC(=CN1)C | C4H6N2S
reactant | 2-bromo-4′-nitroacetophenone | 2.05 mmol, 0.5 g | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | sodium bicarbonate | 2.38 mmol, 200 mg | C([O-])(O)=O.[Na+]
solvent | EtOH | 20 ml | CCO | C2H6O
product | 2-Methyl-6-(4-nitrophenyl)imidazo[2,1-b][1,3]thiazole | 0.143 g, 26% | CC1=CN2C(S1)=NC(=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C12H9N3O2S
